US09260408B2
[B] 6-[5-(2-Hydroxy-ethylamino)-pyridin-3-yl]-1-methyl-3,4-dihydro-1H-quinolin-2-one
To solution of 6-{5-[2-(tert-butyl-dimethyl-silanyloxy)-ethylamino]-pyridin-3-yl}-1-methyl-3,4-dihydro-1H-quinolin-2-one (0.06 g, 0.146 mmol) in MeOH (2.5 mL) was added 4M HCl in dioxane (0.255 ml, 1.02 mmol) and the reaction mixture was stirred at room temperature for 2 h. The mixture was concentrated in vacuo, the residue dissolved in EtOAc (20 mL) and washed with aq. NaHCO3 (5 mL). The organic layer was washed with brine, dried over Na2SO4, filtered and evaporated to dryness. The residue was purified by silica gel flash chromatography eluting with a 0 to 2% MeOH(1% NH4OH)-DCM gradient to give the title compound (0.01 g, 22%) as an off white solid. MS: 298.3 (M+H+).

reactant | 6-{5-[2-(tert-butyl-dimethyl-silanyloxy)-ethylamino]-pyridin-3-yl}-1-methyl-3,4-dihydro-1H-quinolin-2-one | 0.146 mmol, 0.06 g | C(C)(C)(C)[Si](OCCNC=1C=C(C=NC1)C=1C=C2CCC(N(C2=CC1)C)=O)(C)C | C23H33N3O2Si
reactant | HCl | 4M | Cl | ClH
reactant | dioxane | 1.02 mmol, 0.255 ml | O1CCOCC1 | C4H8O2
solvent | MeOH | 2.5 mL | CO | CH4O
product | 6-[5-(2-Hydroxy-ethylamino)-pyridin-3-yl]-1-methyl-3,4-dihydro-1H-quinolin-2-one | 0.01 g, 22% | OCCNC=1C=C(C=NC1)C=1C=C2CCC(N(C2=CC1)C)=O | C17H19N3O2
